US04749818
Oleyl alcohol, having about a 4/1 cis/trans ratio, is dehydrated over gamma-alumina in the presence of nitrogen to produce 1,9-octadecadiene.

reactant | Oleyl alcohol | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | gamma-alumina | [O-2].[O-2].[O-2].[Al+3].[Al+3]
product | 1,9-octadecadiene | C=CCCCCCCC=CCCCCCCCC | C18H34
